US05376681
5-Amino-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran
Sulfuric acid (2.0 ml) was-added to a solution of 4-amino-2,3,5-trimethylphenol (2.0 g, 13.2 mmol) and 2-methyl-2-propenol (1.15 g, 15.8 mmol) in dichloromethane (20 ml) and the mixture was heated under reflux for 18 hours under an argon atmosphere. The reaction solution was made weak alkaline with aqueous saturated sodium bicarbonate solution and the organic layer was separated. The organic layer was washed with water, dried and then concentrated. The residue was purified by column chromatography on silica gel eluting with isopropyl ether. The product obtained was recrystallized from hexane to obtain the desired product as crystals (460 mg, yield: 16.9%), m.p. 110°-° C.

reactant | Sulfuric acid | 2.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-amino-2,3,5-trimethylphenol | 13.2 mmol, 2.0 g | NC1=C(C(=C(C=C1C)O)C)C | C9H13NO
reactant | 2-methyl-2-propenol | 15.8 mmol, 1.15 g | CC(CO)=C | C4H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-Amino-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran | 460 mg, yield: 16.9% | NC=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C13H19NO
